US05198451
A mixture of 2-(3-(3-chlorophenyl)-3-phenyl-2-propen-1-yloxy)ethanol (52.2 g, 0.18 mol) and triethylamine (45.7 g, 0.45 mol) in dry toluene (200 ml) kept under a nitrogen atmosphere was cooled to 5° C. and a solution of methanesulphonyl chloride (41.4 g, 0.36 mol) in dry toluene (200 ml) was added dropwise keeping the temperature below 10° C. When addition was complete the reaction mixture was stirred for 1 h at 5° C. Water was added (250 ml) and the mixture was stirred at room temperature for 10 minutes. The phases were separated and the aqueous phase was extracted with a small portion of toluene. The combined organic extracts were washed with brine and dried over sodium sulphate. The mixture was filtered and the filtrate was reduced in vacuo to approximately 500 ml. Ethyl (R)-3-piperidinecarboxylate (56.8 g, 0.36 mol) and potassium carbonate (49.9 g, 0.36 mol) were added and the mixture was heated at reflux temperature for 7 days. The cooled reaction mixture was poured into water (200 ml) and extracted with ethyl acetate (2×200 ml). The combined organic extracts were washed with a sodium citrate buffer solution (pH 5) and then extracted with a 34% aqueous tartaric acid solution (3×100 ml). The combined acidic aqueous extracts were poured into a mixture of ice water (3 1) and ethyl acetate (400 ml). Sodium hydroxide pellets (27.2 g) was added until pH was measured at ca. 4 and the phases were separated. The organic phase was washed with a 5% sodium bicarbonate solution (3×150 ml) and dried over sodium sulphate. The solvent was evaporated in vacuo to give 57.5 g (74%) of (R)-N-(2-(3-(3-chlorophenyl)-3-phenyl-2-propen-1-yloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester as an oil. TLC: rf=0.45 (SiO2 ; dichloromethane/methanol/acetic acid=20:2:1).

reactant | 2-(3-(3-chlorophenyl)-3-phenyl-2-propen-1-yloxy)ethanol | 0.18 mol, 52.2 g | ClC=1C=C(C=CC1)C(=CCOCCO)C1=CC=CC=C1 | C17H17ClO2
reactant | triethylamine | 0.45 mol, 45.7 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.36 mol, 41.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Ethyl (R)-3-piperidinecarboxylate | 0.36 mol, 56.8 g | N1C[C@@H](CCC1)C(=O)OCC | C8H15NO2
reactant | potassium carbonate | 0.36 mol, 49.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 ml | O | H2O
product | (R)-N-(2-(3-(3-chlorophenyl)-3-phenyl-2-propen-1-yloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester | 57.5 g, 74% | C(C)OC(=O)[C@H]1CN(CCC1)CCOCC=C(C1=CC=CC=C1)C1=CC(=CC=C1)Cl | C25H30ClNO3
